US06559167B1
N,N-Dimethylaniline (8 ml) was dissolved in 20 ml of chloroform, and chlorosulfonic acid (20 ml) was slowly added with cooling. The reaction mixture was refluxed for 6 hr. The reaction mixture was cooled and poured on ice (100 g). Dichloromethane (120 ml) was added and aqueous layer was neutralized by concentrated sodium carbonate solution with keeping temperature below 4 ° C. Organic layer was again washed with ice-cold 0.1N sodium bicarbonate solution, and dried over anhydrous magnesium sulfate. Organic layer was concentrated under reduced pressure. Residual material was crystallized from ethyl ether-heptane to give yellowish green solid. p-(Dimethylamino)benzenesulfonyl chloride (4.2 g) was obtained. M. P. 108-13 111° C.

reactant | N,N-Dimethylaniline | 8 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | chlorosulfonic acid | 20 ml | ClS(=O)(=O)O | ClHO3S
reactant | Dichloromethane | 120 ml | ClCCl | CH2Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | p-(Dimethylamino)benzenesulfonyl chloride | 4.2 g | CN(C1=CC=C(C=C1)S(=O)(=O)Cl)C | C8H10ClNO2S
